US04904692
Step 3: Preparation of 3-[3-(4-fluorophenyl)bicyclo[3.2.1]oct-2-en-2-yl]-propenal
To a 0°-5° C. solution of LDA (26.5 mmoles) in 25 ml anhydrous ether was added ethylidenecyclohexylamine (Org. Syn. 50 66) (3.32 g, 26.5 mmlles) in 25 ml anhydrous ether. The solution was stirred for 10 minutes, cooled to -70° C. and 3-(4-fluorophenyl)bicyclo[3.2.1]oct-2-ene-2-carboxaldehyde (5.55 g, 24.1 mmoles) in 25 ml ether was added. The solution was stirred for 60 minutes, warmed to 0°-5° C., stirred for 90 minutes and diluted with water. The organic layer was washed with water and brine and dried (MgSO4). Removal of the volatiles in vacuo provided a residue which was purified by HPLC using 3% ethyl acetate in hexanes as the eluent. Concentration in vacuo of the product rich fractions provided 2.53 g of the product as an orange oil.

reactant | LDA | 26.5 mmoles | [Li+].CC(C)[N-]C(C)C
reactant | ethylidenecyclohexylamine | 3.32 g | C(C)=NC1CCCCC1 | C8H15N
reactant | 3-(4-fluorophenyl)bicyclo[3.2.1]oct-2-ene-2-carboxaldehyde | 24.1 mmoles, 5.55 g | FC1=CC=C(C=C1)C1=C(C2CCC(C1)C2)C=O | C15H15FO
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-[3-(4-fluorophenyl)bicyclo[3.2.1]oct-2-en-2-yl]-propenal | 2.53 g | FC1=CC=C(C=C1)C1=C(C2CCC(C1)C2)C=CC=O | C17H17FO
